US07049438B2
Using an analogous procedure to that described in Example 1, 7-benzyloxy-4-(2-chloro-5-methoxyanilino)-5-hydroxyquinazoline (0.53 g) was reacted with cyclohexanol to give 7-benzyloxy-4-(2-chloro-5-methoxyanilino)-5-cyclohexyloxyquinazoline (0.25 g); NMR Spectrum: (DMSOd6 and CF3CO2D) 1.3–1.4 (m, 1H), 1.4–1.55 (m, 2H), 1.55–1.65 (m, 1H), 1.7–1.85 (m, 4H), 2.15 (m, 2H), 3.82 (s, 3H), 4.95 (m, 1H), 5.4 (s, 2H), 7.0 (d, 1H), 7.05 (m, 1H), 7.2 (s, 1H), 7.4–7.65 (m, 7H), 8.9 (s, 1H); Mass Spectrum: M+H+ 490 and 492.

reactant | 7-benzyloxy-4-(2-chloro-5-methoxyanilino)-5-hydroxyquinazoline | 0.53 g | C(C1=CC=CC=C1)OC1=CC(=C2C(=NC=NC2=C1)NC1=C(C=CC(=C1)OC)Cl)O | C22H18ClN3O3
reactant | cyclohexanol | C1(CCCCC1)O | C6H12O
product | 7-benzyloxy-4-(2-chloro-5-methoxyanilino)-5-cyclohexyloxyquinazoline | 0.25 g | C(C1=CC=CC=C1)OC1=CC(=C2C(=NC=NC2=C1)NC1=C(C=CC(=C1)OC)Cl)OC1CCCCC1 | C28H28ClN3O3
